US08334301B2
2-{4-[(methylamino)methyl]-2-phenyl-1H-imidazol-1-yl}-2-phenylethanol dihydrochloride
To a solution of methyl (4-formyl-2-phenyl-1H-imidazol-1-yl)(phenyl)acetate (200 mg) in methanol (10 mL) was added 40% methylamine methanol solution (243 mg) and the mixture was stirred for 15 min. Sodium borohydride (71 mg) was added and the mixture was stirred for 30 min. 1 mol/L Hydrochloric acid was added to the reaction mixture and the mixture was stirred for 5 min. The mixture was neutralized with saturated sodium hydrogen carbonate solution, and extracted with ethyl acetate-tetrahydrofuran (1:1). The extract was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent:ethyl acetate-methanol=1:0→3:2) and dissolved in methanol (5 mL). A 4 mol/L hydrogen chloride-ethyl acetate solution (1 mL) was added, and the mixture was concentrated under reduced pressure. Ethyl acetate was added to the residue, and insoluble materials were collected by filtration to give the title compound as a colorless powder (yield 63 mg, yield 27%).

reactant | methyl (4-formyl-2-phenyl-1H-imidazol-1-yl)(phenyl)acetate | 200 mg | C(=O)C=1N=C(N(C1)C(C(=O)OC)C1=CC=CC=C1)C1=CC=CC=C1 | C19H16N2O3
reactant | methylamine methanol | 243 mg | CO.CN
reactant | Sodium borohydride | 71 mg | [BH4-].[Na+]
reactant | Hydrochloric acid | 1 mol/L | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 2-{4-[(methylamino)methyl]-2-phenyl-1H-imidazol-1-yl}-2-phenylethanol dihydrochloride | yield 63 mg, yield 27% | Cl.Cl.CNCC=1N=C(N(C1)C(CO)C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C19H21N3O.2ClH/c1-20-12-17-13-22(18(14-23)15-8-4-2-5-9-15)19(21-17)16-10-6-3-7-11-16;;/h2-11,13,18,20,23H,12,14H2,1H3;2*1H
